US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-chloro-4-trifluoromethoxyaniline gave 2-chloro-N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.15 (d, 1H, J=3.0 Hz), 7.86 (d, 1H, J=2.1 Hz), 7.61 (dd, 1H, J=2.1 and 8.7 Hz), 7.35 (dd, 1H, J=1.2 and 8.7 Hz), 6.98 (bs, 1H); LCMS: purity: 97%; MS (m/e): 342 (M+2H).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-chloro-4-trifluoromethoxyaniline | ClC=1C=C(N)C=CC1OC(F)(F)F | C7H5ClF3NO
product | 2-chloro-N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC(F)(F)F)Cl)F | C11H5Cl2F4N3O
